US07053089B2
2,3,5,6-tetrachloro-4-nitropyridine (S. M. Roberts et al., J. Chem. Soc. C, 2844–2848(1968)) (1.7 g, 6.5 mmol) was added to a solution of (cis)-4-aminomethyl-3-hydroxy-piperidine-1-carboxylic acid benzyl ester (1.71 g, 6.49 mmol) and N-methylmorpholine (0.785 mL, 7.15 mmol) in THF (50 mL) at room temperature. The resulting reaction mixture was stirred for 18 h at room temperature then partitioned between EtOAc and water. The organic layer was washed with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate and the solvent evaporated to give crude product purified by flash column chromatography (20–80% EtOAc hexane) to give 3-hydroxy-4-[(2,3,5,6-tetrachloro-pyridin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester compound. M.S (M+1): 478.

reactant | 2,3,5,6-tetrachloro-4-nitropyridine | 6.5 mmol, 1.7 g | ClC1=NC(=C(C(=C1Cl)[N+](=O)[O-])Cl)Cl | C5Cl4N2O2
reactant | (cis)-4-aminomethyl-3-hydroxy-piperidine-1-carboxylic acid benzyl ester | 6.49 mmol, 1.71 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](CC1)CN)O | C14H20N2O3
reactant | N-methylmorpholine | 7.15 mmol, 0.785 mL | CN1CCOCC1 | C5H11NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-4-[(2,3,5,6-tetrachloro-pyridin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)CNC1=C(C(=NC(=C1Cl)Cl)Cl)Cl)O | C19H19Cl4N3O3
